US03974281
3-(4'Chlorophenyl)-5-methyl-1-phenyl-2-(1H)-pyridone is prepared in 82% yield by the reaction of 3-(p-chlorophenyl) -5-methyl-2-(1H)-pyridone (B. E. Witzel et al. Brit. Pat. No. 1,238,959) with iodobenzene as described in Example 1.

reactant | 3-(p-chlorophenyl) -5-methyl-2-(1H)-pyridone | ClC1=CC=C(C=C1)C=1C(NC=C(C1)C)=O | C12H10ClNO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 3-(4'Chlorophenyl)-5-methyl-1-phenyl-2-(1H)-pyridone | 82% yield | ClC1=CC=C(C=C1)C=1C(N(C=C(C1)C)C1=CC=CC=C1)=O | C18H14ClNO
